US06489485B2
A solution of 2-(4-amino-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide (63.0 mg, 0.20 mmol) in tetrahydrofuran (10 mL) was treated with N,N-diisopropylethylamine (0.04 mL, 0.24 mmol) and 4-nitro-benzene sulfonyl chloride (49.0 mg, 0.20 mmol). The reaction mixture was stirred at 25° C. for 21 h. At this time, the reaction was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-[4-(4-nitro-benzenesulfonylamino)-phenyl]-N-thiazol-2-yl-propionamide (47.5 mg, 47.5%) as a yellow solid: mp 120-125° C.; FAB-HRMS m/e calcd for C23H24N4O5S2 (M+H)+ 501.1266, found 501.1264.

reactant | 2-(4-amino-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide | 0.20 mmol, 63.0 mg | NC1=CC=C(C=C1)C(C(=O)NC=1SC=CN1)CC1CCCC1 | C17H21N3OS
reactant | N,N-diisopropylethylamine | 0.24 mmol, 0.04 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-nitro-benzene sulfonyl chloride | 0.20 mmol, 49.0 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-cyclopentyl-2-[4-(4-nitro-benzenesulfonylamino)-phenyl]-N-thiazol-2-yl-propionamide | 47.5 mg, 47.5% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C23H24N4O5S2
